US04713387
In 22.5 ml of ethanol was dissolved 4.51 g of 3-[p-[3-(2-hydroxyethyl)oxy-2-methylpropionyl]benzyl]pyridine, and 286 mg of sodium boron hydride was added in small portions to the resulting solution with ice-cooling, after which the resulting mixture was subjected to reaction at the same temperature for one hour. The solvent was removed by distillation under reduced pressure, and 22.5 ml of water and 22.5 ml of ethyl acetate were added to the residue thus obtained, after which the pH thereof was adjusted to 7.0 with 2N hydrochloric acid. The organic layer was separated, washed with 10 ml of water, and 22.5 ml of water was added to the organic layer, after which the pH thereof was adjusted to 1.5 with 2N hydrochloric acid. The aqueous layer was separated, and then washed with 10 ml of ethyl acetate, after which 22.5 ml of ethyl acetate was added to the aqeous layer. The resulting mixture was neutralized with sodium hydrogencarbonate. The organic layer was separated, washed with 10 ml of water, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 4.2 g (yield 92.5%) of colorless, oily 3-[p-[1-hydroxy-3-(2-hydroxyethyl)oxy-2-methylpropyl]benzyl]pyridine.

reactant | 3-[p-[3-(2-hydroxyethyl)oxy-2-methylpropionyl]benzyl]pyridine | 4.51 g | OCCOCC(C(=O)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C18H21NO3
reactant | sodium boron hydride | 286 mg | B.[Na]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 22.5 ml | C(C)O | C2H6O
product | 3-[p-[1-hydroxy-3-(2-hydroxyethyl)oxy-2-methylpropyl]benzyl]pyridine | yield 92.5% | OC(C(COCCO)C)C1=CC=C(CC=2C=NC=CC2)C=C1 | C18H23NO3
